US08455665B2
(R,R)-(−)-N,N′-Bis(3,5-di-t-butylsalicylidene)-1,2-cyclohexanediaminocobalt (II) (32.6 mg, 53.9 μmol) was dissolved in toluene (2.0 mL). AcOH was added (6.1 μL), and the resulting mixture was stirred at room temperature for 1 hour under air. The mixture was then concentrated and dried under high vacuum. (S)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester (2.3 g, 10.8 mmol) was added, followed by water (97.1 μL), and the resulting mixture was stirred vigorously for 6 hours. Hexanes (15 mL) was added. The resulting solid was manually crushed and additional hexanes was added and stirred until the red solid became a yellowish precipitate. The precipitate was filtered and washed with 2 portions of hexanes. The precipitate was dried under vacuum to yield (S)-3-((S)-1,2-dihydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester as an off-white solid (1.3 g). The filtrate was concentrated and purified by SiO2 flash chromatography (0-100% EtOAc in hexanes) to yield (S)—(R)-3-oxiranylpyrrolidine-1-carboxylic acid t-butyl ester as an oil (970 mg).

reactant | AcOH | CC(=O)O | C2H4O2
reactant | (S)-3-Oxiranylpyrrolidine-1-carboxylic acid t-butyl ester | 10.8 mmol, 2.3 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)C1OC1 | C11H19NO3
reactant | water | 97.1 μL | O | H2O
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-3-((S)-1,2-dihydroxyethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 1.3 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)[C@@H](CO)O | C11H21NO4
